US05852017
b) N-Cyclohexyl-2,4-diaminoaniline
60.0 g (0.23 mol) of N-cyclohexyl-2,4-dinitroaniline were dissolved in 500 ml of tetrahydrofuran and, after addition of 3 g of palladium/carbon (10%), were hydrogenated. The mixture was then filtered and the filtrate was concentrated under reduced pressure to yield 47.2 g (100%) of the product.

reactant | N-cyclohexyl-2,4-dinitroaniline | 0.23 mol, 60.0 g | C1(CCCCC1)NC1=C(C=C(C=C1)[N+](=O)[O-])[N+](=O)[O-] | C12H15N3O4
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
catalyst | palladium/carbon | 3 g | [Pd] | Pd
product | N-Cyclohexyl-2,4-diaminoaniline | 47.2 g, 100% | C1(CCCCC1)NC1=C(C=C(C=C1)N)N | C12H19N3
